datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22](=[O:23])[O:39]1.FC1=C(F)C(F)=C([B-:11](C2=C(F)C(F)=C(F)C(F)=C2F)(C2=C(F)C(F)=C(F)C(F)=C2F)[H:10])C(F)=C1F>>CC1(C)[O:33][C:31](=[O:32])[C:21]([CH:20]([H:10])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]([O-:23])[O:39]1.FC1=C(F)C(F)=C([B:11](C2=C(F)C(F)=C(F)C(F)=C2F)C2=C(F)C(F)=C(F)C(F)=C2F)C(F)=C1F 10,11=10,20;20,21=21,22;22,23=23"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=S)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.[CH2:10]=[CH:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:75]=[CH:73]1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH2:10][CH+:11][C:62]2=[CH:63][CH:64]=[CH:65][CH:75]=[CH:73]2)[C:21]2=[C:22]([O-:23])[N:51](C)C(=S)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23"
"C1=C[C:72]2=[C:73](C=C1)[C:61](=[O:62])[N:10]=[C:11]2[O-:12].C[C:21](=[CH:20]\[C:31](=[O:32])[N:33](C)C)/[N:22]=[N:23]/[C:24](N)=[O:25]>>C[C:21]([CH:20]([N:10]1[C:11](=[O:12])[C:72]2=[C:73](C=CC=C2)[C:61]1=[O:62])[C:31](=[O:32])[N:33](C)C)=[N:22][N:23]=[C:24](N)[O-:25] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
C1=CC=C([S:61]([CH-:10][C:81]2=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]2)(=[O:62])=[O:72])C=C1.C[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>C[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[C:81]2=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1 10=20
"C/[C:10](=[C:11]1/[CH:12]=[CH:13]/[C:14](=[N+:15](/[O-:16])[O-:86])[CH:63]=[CH:62]1)[C:71]#[N:72].C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1>>C[C:10]([C:11]1=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:86])[CH:63]=[CH:62]1)([CH:20]([N:21](C)C)[C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1)[C:71]#[N:72] 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21"
"CC1=CC=C([S:32](/[CH:21]=[CH:20]/C2=CC=CC=C2)(=[O:33])=[O:34])C=C1.CC1=CC=[C:10]([B-:11]2(C3=CC=C(C(F)(F)F)C=C3)[O:12]C3=C(C=CC=C3)[O:62]2)S1>>CC1=CC=C([S:32]([CH-:21][CH:20](C2=CC=CC=C2)[C:10]2=CC=C(C)S2)(=[O:33])=[O:34])C=C1.FC(F)(F)C1=CC=C([B-:11]2=[O+:12]C3=C(C=CC=C3)[O:62]2)C=C1 10,11=10,20;12=11,12;20,21=21"
"C1CC[C:11](=[CH2:10])C1.C[O:49][C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1>>C[O:49][C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH:20]([CH2:10][C+:11]2CCCC2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1 10,11=10,20"
"FC1=CC=CC(F)=C1[B-:11](C1=C(F)C=CC=C1F)(C1=C(F)C=CC=C1F)[H:10].F[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>FC1=CC=CC(F)=C1[B:11](C1=C(F)C=CC=C1F)C1=C(F)C=CC=C1F.F[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20"
"COC12C3C[CH:20]4C5C1[Fe-2:21]3524(C#[O+])(C#[O+])C#[O+].C[C:61]([N-:10][C:71](C)=[O:72])=[O:62]>>COC12C3C[CH:20]([N:10]([C:61](C)=[O:62])[C:71](C)=[O:72])C4C1[Fe-3:21]342(C#[O+])(C#[O+])C#[O+] 10=20;20,21=21"
"C1C[O:62][CH:11]([H:10])[O:12]1.Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl>>C1C[O:62][CH:11]=[O+:12]1.Cl[C:20]1([H:10])[C:21](Cl)=[C:22]([O-:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH+:20][C:41]13C4C5C6C1[Fe:42]5643179%10C3C1C7C9C3%10)C28.CN1CC[N:14]2CCN(C)[C:62]3=[CH:61][N:10]=[CH:11][C:12]1=[C:13]23>>CN1CC[N+:14]2=[C:13]3[C:12]1=[CH:11][N:10]([CH:20]([C:31]14C5C6C7C1[Fe:32]6754189%10C4C1C8C9C4%10)[C:41]14C5C6C7C1[Fe:42]6754189%10C4C1C8C9C4%10)[CH:61]=[C:62]3N(C)CC2 10,11=10,20;12,13=11,12;14=13,14"
"CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22](=[O:23])[O:39]1.C[C-:10]([C:61](C)=[O:62])[C:71](C)=[O:72]>>CC1(C)[O:33][C:31](=[O:32])[C:21]([CH:20]([C:10](C)([C:61](C)=[O:62])[C:71](C)=[O:72])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]([O-:23])[O:39]1 10=20;20,21=21,22;22,23=23"
"CC[O:12][CH:11]=[C:10](C)C.CO[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH:32]=[C:33](OC)[C:24]1=[O:25]>>CC[O+:12]=[CH:11][C:10](C)(C)[CH:20]([C:21]1=[CH:22][C:23](OC)=[C:24]([O-:25])[C:33](OC)=[CH:32]1)[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
